US05278316
N-[(2-Adamantyloxy)carbonyl]-α-trimethylsilylethoxymethyl-DL-tryptophan methyl ester
A mixture of α-trimethylsilylethoxymethyl-DL-tryptophan methyl ester (1.0 g, 2.8 mmol), diisopropylethylamine (0.4 g, 3 mmol) and 2-adamantylchloroformate (0.65 g, 3 mmol) in 20 mL dry THF was stirred at room temperature for 4 hours. The reaction mixture was diluted with distilled water and extracted with ethyl acetate (4×50 mL). The organic extract was washed with brine and dried over Na2SO4. Evaporation of the organic solvent gave the title compound as a colorless foam (1.0 g, 67.8%).

reactant | α-trimethylsilylethoxymethyl-DL-tryptophan methyl ester | 2.8 mmol, 1.0 g | COC(C(NCOC(C)[Si](C)(C)C)CC1=CNC2=CC=CC=C12)=O | C18H28N2O3Si
reactant | diisopropylethylamine | 3 mmol, 0.4 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-adamantylchloroformate | 3 mmol, 0.65 g | C12C(C3CC(CC(C1)C3)C2)OC(=O)Cl | C11H15ClO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-[(2-Adamantyloxy)carbonyl]-α-trimethylsilylethoxymethyl-DL-tryptophan methyl ester | 1.0 g, 67.8% | COC(C(N(C(=O)OC1C2CC3CC(CC1C3)C2)COC(C)[Si](C)(C)C)CC2=CNC3=CC=CC=C23)=O | C29H42N2O5Si
